US07943647B2
b5) Alternatively, (S)-3-methyl-2-((2′-(1H-tetrazol-5-yl)-biphenyl-4-yl-methyl)-amino)-butyric acid can be prepared e.g. as follows
2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde (0.79 g; 3.2 mmol) and L-Valine (0.4 g; 3.4 mmol) are suspended in 15 ml methanol. Then sodium hydroxide is added (0.27 g; 6.72 mmol) and the reaction mixture is stirred at room temperature until a clear solution is obtained. 5% Pt/C (15.8 mg; 2 wt/wt-%) is added. The autoclave is sealed and flushed with argon and hydrogen. The pressure is set to 5 bars and the reaction is stirred at 60° C. The reaction completion is monitored by HPLC. Then the autoclave is flushed with argon and the catalyst is filtered off. Further work-up and crystallisation are done similar to example 1 b2).

reactant | 2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde | 3.2 mmol, 0.79 g | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H10N4O
reactant | L-Valine | 3.4 mmol, 0.4 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pt/C | 15.8 mg | [Pt] | Pt
product | (S)-3-methyl-2-((2′-(1H-tetrazol-5-yl)-biphenyl-4-yl-methyl)-amino)-butyric acid | CC([C@@H](C(=O)O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C | C19H21N5O2
